US07618975B2
N2-(2-Hydroxylethyl)-N4-(4-methoxy-phenyl)-N4-methyl-quinazoline-2,4-diamine
The title compound was prepared from (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine (15 mg, 0.050 mmol) and 2-hydroxylethylamine (20 μL) by a procedure similar to example 10 and was isolated as white solid (12 mg, 80%). 1H NMR (CDCl3): 7.43 (ddd, J=8.4, 1.5 and 0.9 Hz, 1H), 7.35 (ddd, J=7.8, 3.3 and 1.5 Hz, 1H), 7.12-7.06 (m, 2H), 6.92-6.90 (m, 2H), 6.84 (dd, J=8.4 and 1.5 Hz, 1H), 6.66 (ddd, J=7.2, 6.3 and 1.5 Hz, 1H), 3.91-3.89 (m, 2H), 3.83 (s, 3H), 3.69-3.65 (m, 2H), 3.48 (s, 3H).

reactant | (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 0.050 mmol, 15 mg | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14ClN3O
reactant | 2-hydroxylethylamine | 20 μL | OCCN | C2H7NO
product | N2-(2-Hydroxylethyl)-N4-(4-methoxy-phenyl)-N4-methyl-quinazoline-2,4-diamine | OCCNC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C18H20N4O2
